US06136823
Synthesis of 1-(6-Amino-5-fluoropyridin-2-yl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(6-Amino-5-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (158 mg) and an aqueous solution (about 40%; 165 mg) of methylamine were added to pyridine (480 mg), and the mixture was stirred at room temperature for 17 hours. The reaction mixture was concentrated under reduced pressure, and ethanol (1 ml) was added to the residue. Deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (168 mg) as a pale yellow powder.

reactant | 1-(6-Amino-5-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 158 mg | NC1=C(C=CC(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F | C15H7ClF3N3O3
reactant | methylamine | 165 mg | CN | CH5N
solvent | pyridine | 480 mg | N1=CC=CC=C1 | C5H5N
product | 1-(6-Amino-5-fluoropyridin-2-yl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 168 mg | NC1=C(C=CC(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC)F)=O)C(=O)O)F | C16H11ClF2N4O3
